US08049013B2
3,4-Difluoro-thiobenzamide
Dissolve 3,4-difluorobenzamide (4.95 g, 31.5 mmol) in diethyl ether (70 mL) and cool the mixture to 0° C. Add phosphorus pentasulfide (7.0 g, 31.5 mmol) and warm the mixture to room temperature overnight. Filter the mixture and concentrate the filtrate to obtain 5.5 g (100%) of a yellow solid. 1H NMR (300 MHz, DMSO-d6) δ: 9.99 (bs, 1H), 9.54 (bs, 1H), 7.89 (m, 1H), 7.75 (m, 1H), 7.46 (m, 1H).

reactant | 3,4-difluorobenzamide | 31.5 mmol, 4.95 g | FC=1C=C(C(=O)N)C=CC1F | C7H5F2NO
reactant | phosphorus pentasulfide | 31.5 mmol, 7.0 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | diethyl ether | 70 mL | C(C)OCC | C4H10O
product | 3,4-Difluoro-thiobenzamide | 5.5 g, 100% | FC=1C=C(C(=S)N)C=CC1F | C7H5F2NS
